US04642308
The procedure is similar to that described in Example 1, but starting with 2-thiophenecarboxylic acid (9 g), N,N'-carbonyldiimidazole (11.3 g) and 2-amino-7-chloro-1,8-naphthyridine (9.5 g). The product produced by precipitation in water (9.6 g; m.p. 242° C.) is dissolved in boiling ethanol (700 cc). After 1 hour's cooling at 4° C., the crystallised solid is separated by filtration, washed with ethanol (2×25 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-Chloro-1,8-naphthyridin-2-yl)-2-thiophenecarboxamide (7.5 g) is produced, m.p. 244° C.

reactant | 2-thiophenecarboxylic acid | 9 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | 2-amino-7-chloro-1,8-naphthyridine | 9.5 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | ethanol | 700 cc | C(C)O | C2H6O
solvent | water | 9.6 g | O | H2O
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-2-thiophenecarboxamide | 7.5 g | ClC1=CC=C2C=CC(=NC2=N1)NC(=O)C=1SC=CC1 | C13H8ClN3OS
